US07351778B2
Preparation of benzyl 3-benzoyloxybutyrate
Preparation of benzyl 3-benzoyloxybutyrate Benzyl 3-benzoyloxybutyrate was prepared following the procedure as described in step 2) of Preparation Example 2, except for that benzyl 3-hydroxybutyrate was used to replace for ethyl 3-hydroxybutyrate. Yield 75%.

reactant | benzyl 3-benzoyloxybutyrate Benzyl 3-benzoyloxybutyrate | C(C1=CC=CC=C1)OC(CC(C)OC(C1=CC=CC=C1)=O)=O.C(C1=CC=CC=C1)(=O)OC(CC(=O)OCC1=CC=CC=C1)C | 2C18H18O4
reactant | benzyl 3-hydroxybutyrate | OC(CC(=O)OCC1=CC=CC=C1)C | C11H14O3
reactant | ethyl 3-hydroxybutyrate | OC(CC(=O)OCC)C | C6H12O3
product | benzyl 3-benzoyloxybutyrate | Yield 75% | C(C1=CC=CC=C1)(=O)OC(CC(=O)OCC1=CC=CC=C1)C | C18H18O4
